* PEX produced on Thu Jul  9 11:19:25 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1
* NGSPICE file created from vbias.ext - technology: ihp-sg13g2

.subckt vbias vp gd iref vbias
X0 a_2101_2290.t2 a_2101_2290.t1 gd.t9 gd.t2 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X1 a_1505_2320.t2 a_1505_2320.t1 gd.t8 gd.t7 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X2 vbias.t0 a_1803_2320.t1 gd.t3 rppd l=1.7u w=1u
X3 gd.t1 a_2487_1964.t0 gd.t0 rppd l=1.7u w=1u
X4 a_2399_2478.t2 a_2399_2478.t1 gd.t5 gd.t4 sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X5 a_2399_2478.t0 iref.t4 vp.t2 vp.t0 sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X6 gd.t12 gd.t10 gd.t11 gd.t4 sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X7 a_2487_1964.t1 a_2399_2478.t1 iref.t2 gd.t4 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X8 a_1803_2320.t0 iref.t5 vp.t3 vp.t0 sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X9 iref.t3 a_2101_2290.t1 vp.t6 gd.t2 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X10 a_2101_2290.t0 vp.t4 vp.t5 gd.t2 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X11 vp.t1 iref.t0 iref.t1 vp.t0 sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X12 a_1505_2320.t0 a_1803_2320.t2 vbias.t1 gd.t6 sg13_lv_nmos ad=1.224p pd=7.88u as=1.224p ps=7.88u w=3.6u l=0.6u
R0 vbias.n1 vbias.n0 9.32432
R1 vbias.n0 vbias.t0 5.0005
R2 vbias.n0 vbias.t1 4.4691
R3 vbias.n1 vbias 0.0841
R4 vbias vbias.n1 0.082061
R5 iref.n1 iref.n0 29.9973
R6 iref iref.t5 24.2293
R7 iref.n1 iref.t4 24.0005
R8 iref.n2 iref.t0 15.0005
R9 iref.n3 iref.n2 9.0005
R10 iref.n0 iref.t3 6.20378
R11 iref.n0 iref.t2 5.60148
R12 iref.n2 iref.t1 5.01607
R13 iref.n3 iref.n1 0.6605
R14 iref iref.n3 0.4295
R15 vp.n3 vp.n2 18.7081
R16 vp.t2 vp.n0 17.0005
R17 vp.n5 vp.t2 17.0005
R18 vp.t2 vp.n4 17.0005
R19 vp.n7 vp.t1 17.0005
R20 vp.t1 vp.n1 17.0005
R21 vp.n3 vp.t4 15.0005
R22 vp.t1 vp.n6 8.48605
R23 vp.n2 vp.t6 6.61647
R24 vp.n10 vp.t3 6.59844
R25 vp.n2 vp.t5 5.56245
R26 vp.n10 vp.n9 0.944834
R27 vp.n9 vp.n8 0.934376
R28 vp.n4 vp.n3 0.591097
R29 vp.n8 vp.n7 0.55471
R30 vp.n9 vp.t0 0.472722
R31 vp vp.n10 0.202852
R32 vp vp.n8 0.178546
R33 vp.n5 vp.n1 0.0464701
R34 vp.n6 vp.n5 0.0448652
R35 vp.n7 vp.n0 0.0333358
R36 vp.n6 vp.n4 0.03091
R37 vp.n1 vp.n0 0.0284104
R38 gd.n7 gd.t6 144.107
R39 gd.t3 gd.n7 120.01
R40 gd.n4 gd.t4 111.978
R41 gd.n5 gd.t0 99.9294
R42 gd.n10 gd.t7 92.3664
R43 gd.t2 gd.n5 91.8973
R44 gd.n6 gd.t2 60.2388
R45 gd.t7 gd.n8 59.7687
R46 gd.t0 gd.n4 51.7366
R47 gd.n2 gd.t8 43.1628
R48 gd.t4 gd.n3 40.1584
R49 gd.n8 gd.t3 31.6563
R50 gd.n11 gd.t12 17.3443
R51 gd.n11 gd.t11 17.3305
R52 gd.n12 gd.t10 15.0005
R53 gd.t6 gd.n6 8.02992
R54 gd.n11 gd.t5 6.84299
R55 gd.n0 gd.t9 6.61656
R56 gd.n0 gd.t1 5.0005
R57 gd.n10 gd.n9 4.23616
R58 gd.n13 gd.n3 2.88238
R59 gd.n13 gd.n12 1.4781
R60 gd.n15 gd.n14 1.35925
R61 gd.n16 gd.n15 0.986512
R62 gd.n1 gd.n0 0.590078
R63 gd.n15 gd.n8 0.471542
R64 gd.n15 gd.n7 0.471542
R65 gd.n15 gd.n5 0.471542
R66 gd.n15 gd.n4 0.471542
R67 gd.n16 gd.n2 0.2656
R68 gd gd.n16 0.259151
R69 gd.n12 gd.n11 0.240596
R70 gd.n14 gd.n13 0.20352
R71 gd.n14 gd.n1 0.159421
R72 gd.n9 gd 0.0473445
R73 gd.n9 gd.n2 0.043426
R74 gd gd.n1 0.0115
R75 gd.n15 gd.n3 0.0011742
R76 gd.n15 gd.n6 0.00108228
R77 gd.n15 gd.n10 0.001
R78 a_2487_1964.t0 a_2487_1964.t1 47.9805
R79 a_2101_2290.t2 a_2101_2290.n0 6.33368
R80 a_2101_2290.n0 a_2101_2290.t1 15.0005
R81 a_2101_2290.n0 a_2101_2290.t0 43.5164
R82 a_1505_2320.t2 a_1505_2320.n0 6.37762
R83 a_1505_2320.n0 a_1505_2320.t1 15.0005
R84 a_1505_2320.n0 a_1505_2320.t0 21.4787
R85 a_2399_2478.t0 a_2399_2478.n0 6.27106
R86 a_2399_2478.n0 a_2399_2478.t2 4.72314
R87 a_2399_2478.n0 a_2399_2478.t1 33.2091
R88 a_1803_2320.t1 a_1803_2320.t2 20.608
R89 a_1803_2320.t2 a_1803_2320.t0 21.5698
C0 vp vbias 0.01147f
C1 a_1501_1964# vbias 0.12714f
C2 vp iref 1.2373f
C3 vbias gd 0.5913f
C4 iref gd 0.85682f
C5 vp gd 0.58607f
C6 a_2147_1964# gd 0.41503f $ **FLOATING
C7 a_1501_1964# gd 0.31268f $ **FLOATING
C8 a_1803_2320.t1 gd 0.14019f
C9 a_1803_2320.t2 gd 0.46818f
C10 a_1803_2320.t0 gd 0.11537f
C11 a_2399_2478.t0 gd 0.03774f
C12 a_2399_2478.n0 gd 0.05652f
C13 a_2399_2478.t1 gd 0.16195f
C14 a_2399_2478.t2 gd 0.04394f
C15 a_1505_2320.t2 gd 0.0947f
C16 a_1505_2320.t1 gd 0.1724f
C17 a_1505_2320.n0 gd 0.13532f
C18 a_1505_2320.t0 gd 0.43946f
C19 a_2101_2290.t2 gd 0.05244f
C20 a_2101_2290.t1 gd 0.2028f
C21 a_2101_2290.n0 gd 0.12796f
C22 a_2101_2290.t0 gd 0.14789f
C23 a_2487_1964.t0 gd 0.11054f
C24 a_2487_1964.t1 gd 0.08729f
C25 vp.t6 gd 0.02264f
C26 vp.t5 gd 0.02067f
C27 vp.n2 gd 0.03244f
C28 vp.t4 gd 0.04068f
C29 vp.n3 gd 0.01439f
C30 vp.n4 gd 0.01796f
C31 vp.t2 gd 0.02481f
C32 vp.n5 gd 0.01372f
C33 vp.t1 gd 0.02894f
C34 vp.n7 gd 0.02148f
C35 vp.n8 gd 0.07575f
C36 vp.t0 gd 1.15457f
C37 vp.n9 gd 0.30155f
C38 vp.t3 gd 0.02749f
C39 vp.n10 gd 0.10277f
C40 iref.t2 gd 0.11024f
C41 iref.t3 gd 0.09701f
C42 iref.n0 gd 0.25952f
C43 iref.t4 gd 0.25454f
C44 iref.n1 gd 0.28439f
C45 iref.t0 gd 0.24542f
C46 iref.t1 gd 0.13916f
C47 iref.n2 gd 0.09285f
C48 iref.n3 gd 0.06682f
C49 iref.t5 gd 0.25286f
C50 vbias.t1 gd 0.37541f
C51 vbias.t0 gd 0.09555f
C52 vbias.n0 gd 0.21642f
C53 vbias.n1 gd 0.01024f
.ends

